spice
* NMOS Amplifier Circuit

VDD N5 0 DC 10V
VIN N3 0 DC 1V AC 1V

RD N1 N5 10k
R1 N1 N2 4.7k
R1 N2 0 4.7k

M1 N1 N3 N2 N2 NMOS_MOD

.model NMOS_MOD NMOS (LEVEL=1 KP=2e-5 VTO=1)

.TRAN 1us 10ms
.END